US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((Cyclohexylmethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((cyclohexylmethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (200 mg, 0.258 mmol) in DCM (10 mL) stirred at room temp was added TFA (5 mL, 64.9 mmol). The reaction mixture was stirred at 30° C. for 2 h. The product was evaporated to dryness and then diluted with 200 mL DCM. The organic phase was washed with saturated NaHCO3, water and brine. The organics were dried and concentrated under reduced pressure to afford crude product, which was purified by preparative-HPLC to afford the title compound (55 mg, 29%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ=12.18 (br. s., 1H), 7.93 (t, J=5.8 Hz, 1H), 6.60 (d, J=15.8 Hz, 1H), 5.89 (d, J=15.8 Hz, 1H), 4.39 (dd, J=4.6, 11.2 Hz, 1H), 3.27-3.12 (m, 1H), 3.03-2.87 (m, 2H), 2.73 (dd, J=3.5, 11.8 Hz, 1H), 2.24-1.99 (m, 3H), 1.96-0.70 (m, 57H); LC/MS: m/z calculated 719.5. Found 720.5 (M+1)+.

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((cyclohexylmethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 0.258 mmol, 200 mg | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C\C(=O)NCC5CCCCC5)C)C)(C)C)C | C49H77NO6
reactant | TFA | 64.9 mmol, 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((Cyclohexylmethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 55 mg, 29% | C1(CCCCC1)CNC(/C=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C)=O | C45H69NO6
